US07022689B2
A suspension of 0.20 g of ethyl [5-bromo-2-[2-(5-cyano-2-methoxybenzenesulfonylamino)ethyl]phenylamino]acetate, 0.113 g of 4,4,5,5,4′,4′,5′,5′-octamethyl-2,2′-bi[[1,3,2]dioxaborolanyl], 8.8 mg of [bis(diphenylphosphino)ferrocene]dichloropalladium(II), 6.7 mg of bis(diphenylphosphino) ferrocene, and 0.118 g of potassium acetate in 3.2 mL of 1,4-dioxane was stirred under argon atmosphere at 80° C. for 20 hours. To the reaction mixture were added 94.7 mg of 2-bromophenyl(methyl)sulfone, 8.8 mg of [bis(diphenylphosphino)ferrocene]dichloropalladium(II), 257 mg of potassium phosphate, and 0.5 mL of 1,4-dioxane. After being stirred under argon atmosphere at 80° C. for 36 hours, the reaction mixture was diluted successively with ethyl acetate and water, and filtered through a diatomaceous earth column pretreated by water. The organic layer was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: ethyl acetate-hexane) to give 0.145 g of ethyl [[4-[2-(5-cyano-2-methoxybenzenesulfonylamino)ethyl]-2′-methanesulfonylbiphenyl-3-yl]amino]acetate.

reactant | ethyl [5-bromo-2-[2-(5-cyano-2-methoxybenzenesulfonylamino)ethyl]phenylamino]acetate | 0.20 g | BrC=1C=CC(=C(C1)NCC(=O)OCC)CCNS(=O)(=O)C1=C(C=CC(=C1)C#N)OC | C20H22BrN3O5S
reactant | 4,4,5,5,4′,4′,5′,5′-octamethyl-2,2′-bi[[1,3,2]dioxaborolanyl] | 0.113 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 0.118 g | C(C)(=O)[O-].[K+]
reactant | 2-bromophenyl(methyl)sulfone | 94.7 mg | BrC1=C(C=CC=C1)CS(=O)(=O)CC1=C(C=CC=C1)Br | C14H12Br2O2S
reactant | potassium phosphate | 257 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 3.2 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | bis(diphenylphosphino) ferrocene | 6.7 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | 1,4-dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | ethyl [[4-[2-(5-cyano-2-methoxybenzenesulfonylamino)ethyl]-2′-methanesulfonylbiphenyl-3-yl]amino]acetate | 0.145 g | C(#N)C=1C=CC(=C(C1)S(=O)(=O)NCCC1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)C)NCC(=O)OCC)OC | C27H29N3O7S2
